US05919793
Sodium borohydride (380 mg) was added to a solution of 3-[2-(4-formyl-2-allylphenyl)ethynyl]quinuclidine-3-ol (2.95 g) and methylamine hydrochloride (1.01 g) in ethanol (50 ml) whilst maintaining the temperature at 5° C. The resulting mixture was stirred at 25° C. for 12 hours, filtered and the filtrate evaporated to leave a residue which was suspended in 1M aqueous sodium hydroxide solution (30 ml) and extracted with ethyl acetate (3×50 ml). The ethyl acetate extracts were combined, washed with brine (50 ml), dried (Na2SO4) and evaporated. The residue was triturated with diethyl ether to give 3-[2-(4-methylaminomethyl-2-allylphenyl)ethynyl]quinuclidin-3-ol as a solid, m.p. 80° C.; microanalysis, found C, 75.1; H, 8.3; N, 8.6%; C20H26N2O.0.5H2O requires: C, 75.2; H, 8.5; N, 8.8%; NMR (CDCl3): 1.4 (-1H, m), 1.65 (1H, m), 2.1 (5H, m), 2.5 (3H, s), 2.8 (4H, t), 3.1 (1H, d), 3.3 (1H, dd), 3.5 (2H, d), 3.7 (2H, s), 5.1 (4H, m), 5.9 (1H, m), 7.1 (2H, m) and 7.4 (1H, d), m/z 311 (M+H).

reactant | Sodium borohydride | 380 mg | [BH4-].[Na+]
reactant | 3-[2-(4-formyl-2-allylphenyl)ethynyl]quinuclidine-3-ol | 2.95 g | C(=O)C1=CC(=C(C=C1)C#CC1(CN2CCC1CC2)O)CC=C | C19H21NO2
reactant | methylamine hydrochloride | 1.01 g | Cl.CN
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 1M, 30 ml | [OH-].[Na+]
product | 3-[2-(4-methylaminomethyl-2-allylphenyl)ethynyl]quinuclidin-3-ol | CNCC1=CC(=C(C=C1)C#CC1(CN2CCC1CC2)O)CC=C | C20H26N2O
